US07371744B2
Compound 13 3-(N,N-dihexylamino)-7-(N,N-dipropylamino)-phenothiazin-5-ium iodide (22%)
This compound was obtained following isolation of 3-(N,N-dipropylamino)-phenothiazin-5-ium triiodide and subsequent treatment with dihexylamine. Precipitation from dichloromethane by addition of diethyl ether yielded purple lustrous crystals. Mass spectrometry: C30H46N3OS requires m/z=480; found m/z=480 (I− not detected by mass spectrometry).

reactant | 3-(N,N-dipropylamino)-phenothiazin-5-ium triiodide | [I-].[I-].[I-].C(CC)N(CCC)C=1C=CC2=NC3=CC=CC=C3[S+]=C2C1.C(CC)N(CCC)C=1C=CC2=NC3=CC=CC=C3[S+]=C2C1.C(CC)N(CCC)C=1C=CC2=NC3=CC=CC=C3[S+]=C2C1
reactant | dihexylamine | C(CCCCC)NCCCCCC | C12H27N
product | 3-(N,N-dihexylamino)-7-(N,N-dipropylamino)-phenothiazin-5-ium iodide | [I-].C(CCCCC)N(CCCCCC)C=1C=CC2=NC3=CC=C(C=C3[S+]=C2C1)N(CCC)CCC | InChI=1S/C30H46N3S.HI/c1-5-9-11-13-21-33(22-14-12-10-6-2)26-16-18-28-30(24-26)34-29-23-25(15-17-27(29)31-28)32(19-7-3)20-8-4;/h15-18,23-24H,5-14,19-22H2,1-4H3;1H/q+1;/p-1
